US08198456B2
A mixture of 1H-indazole-5-carboxaldehyde from Synthetic Preparation 1 (447 mg, 3.1 mmol) and 3-aminocrotononitrile (526.4 mg, 6.41 mmol) in HOAc (10 mL) was kept at 110° C. for 1.5 hr, after which it was cooled to rt. The reaction was treated with NaHCO3 (sat.) to pH 10, and extracted with EtOAc. The organic phases were combined, washed with brine, and dried. Concentration followed by purification with flash chromatography afforded 1,4-dihydro-4-(1H-indazol-5-yl)-2,6-dimethyl-3,5-pyridinedicarbonitrile (370 mg, 44%) (Cpd. No. 80, Table 2). 1H-NMR (400 MHz, CDCl3): δ=8.07 (s, 1H), 7.64 (s, 1H), 7.53 (d, 1H), 7.35 (d, 1H), 4.48 (s, 1H), 2.03 (s, 6H) ppm.

reactant | 1H-indazole-5-carboxaldehyde | N1N=CC2=CC(=CC=C12)C=O | C8H6N2O
reactant | 3-aminocrotononitrile | 6.41 mmol, 526.4 mg | N\C(=C/C#N)\C | C4H6N2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HOAc | 10 mL | CC(=O)O | C2H4O2
product | 1,4-dihydro-4-(1H-indazol-5-yl)-2,6-dimethyl-3,5-pyridinedicarbonitrile | 370 mg, 44% | N1N=CC2=CC(=CC=C12)C1C(=C(NC(=C1C#N)C)C)C#N | C16H13N5
